US06583126B2
Step 2 (E)-1-(5 bromo-3-pyridinyl)-2-[4-(methylsulfanyl)phenyl]-5-phenyl-4-penten-1-one
To 1-(5-bromo-3-pyridinyl)-2-[4-(methylsulfanyl)phenyl]-1-ethanone in DMF (2.5 mL) at 0° C. was added NaH (15 mg, 0.5 mmole). The reaction was stirred 30 minutes, at which point cinnamyl bromide (0.1 g, 0.5 mmole) was added and the reaction was allowed to warm to room temperature. The reaction was quenched with H2O and extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered, and evaporated to give the title compound.

reactant | 1-(5-bromo-3-pyridinyl)-2-[4-(methylsulfanyl)phenyl]-1-ethanone | BrC=1C=C(C=NC1)C(CC1=CC=C(C=C1)SC)=O | C14H12BrNOS
reactant | NaH | 0.5 mmole, 15 mg | [H-].[Na+]
reactant | cinnamyl bromide | 0.5 mmole, 0.1 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (E)-1-(5 bromo-3-pyridinyl)-2-[4-(methylsulfanyl)phenyl]-5-phenyl-4-penten-1-one | BrC=1C=C(C=NC1)C(C(C\C=C\C1=CC=CC=C1)C1=CC=C(C=C1)SC)=O | C23H20BrNOS
